US04873255
Ethyl 3-[4-(6-acetyl-7-hydroxy-2,8-dimethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate
Following a procedure similar to that described in Preparation 4, 0.8 g of 7-acetoxy-6-acetyl-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman (prepared as described in Preparation 22) was hydrogenated by using 0.2 g of 10% w/w/ palladium-on-carbon, 8 ml of methanol and 1 ml of benzene. The product was then reacted with 135 mg of sodium nitrite, 0.6 ml of concentrated aqueous hydrochloric acid, 1.6 ml of ethyl acrylate, 30 mg of cuprous oxide, 6 ml of acetone and 0.5 ml of water, following a procedure similar to that described in Preparation 5, to give the title compound in admixture with its 7-acetoxy compound in a ratio of about 1:1. The mixture was subjected to silica gel column chromatography eluted with a 10:1 by volume mixture of benzene and ethyl acetate, to afford the title compound as a pale yellow oily substance.

reactant | 7-acetoxy-6-acetyl-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman | 0.8 g | C(C)(=O)OC1=C(C=C2C(CC(OC2=C1C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(C)=O | C22H21NO8
reactant | sodium nitrite | 135 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | ethyl acrylate | 1.6 ml | C(C=C)(=O)OCC | C5H8O2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | water | 0.5 ml | O | H2O
solvent | acetone | 6 ml | CC(=O)C | C3H6O
solvent | benzene | 1 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 8 ml | CO | CH4O
product | Ethyl 3-[4-(6-acetyl-7-hydroxy-2,8-dimethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | C(C)(=O)C=1C=C2C(CC(OC2=C(C1O)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O | C25H27ClO7
